US04839348
A mixture of 2-chlorometyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine (0.5 g) and potassium iodide (1 g) in acetone (5 ml) is stirred at room temperature for 24 hours, then it is filtered, concentrated under reduced pressure and the residue purified by column chromatography on silica gel (20 g, eluent: hexane/AcOEt 80/20) to give 0.22 g of 2-iodomethyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine as an oil.

reactant | 2-chlorometyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine | 0.5 g | ClCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C19H21ClN2O6
reactant | potassium iodide | 1 g | [I-].[K+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 2-iodomethyl-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine | 0.22 g | ICC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C19H21IN2O6
